US05821261
Step C: (4S)-1-(tert-Butyloxycarbonyl)-4-(Hydroxymethyl)-L-Proline tert-Butyl Ester
To an oven-dried 100-mL 2-necked round-bottomed flask was added a solution of 1-(tert-butyloxycarbonyl)-4-C-methylene-L-proline tert-butyl ester (519 mg, 1.83 mmol) in 2-methoxyethyl ether (diglyme) (5 mL) followed at 0° C. by a solution of disiamylborane (12.8 ML of a 0.5M solution in tetrahydrofuran, 6.41 mmol) in diglyme (15 mL). After stirring for 15 minutes at 0° C., the cooling bath was removed, and the mixture was allowed to warm up for 15 minutes. The reaction was then quenched by the careful addition of water (25 mL). The reaction mixture was again cooled to 0° C., and the pH was adjusted to 8 with 3N sodium hydroxide. 30% Hydrogen peroxide (4 mL) was added dropwise slowly with the temperature maintained at 0° C. for 10 minutes. The cooling bath was removed for 10 minutes, and an additional 1.3 mL of 30% hydrogen peroxide was added, while maintaining the pH at 8 by addition of 3N sodium hydroxide. The pH was then adjusted to ~6 by the addition of glacial acetic acid. The mixture was partitioned between diethyl ether (100 mL) and water (50 mL), and the aqueous layer extracted with ether. The combined ethereal layers were washed with water, dried (MgSO4), and evaporated. Flash silica gel chromatography eluting with 20% acetone/hexane afforded the title compound as a colorless oil; yield 376 mg (68%).

reactant | 1-(tert-butyloxycarbonyl)-4-C-methylene-L-proline tert-butyl ester | 1.83 mmol, 519 mg | C(C)(C)(C)OC([C@H]1N(CC(C1)=C)C(=O)OC(C)(C)C)=O | C15H25NO4
reactant | disiamylborane | C(C)(C(C)C)BC(C)C(C)C | C10H23B
reactant | 2-methoxyethyl ether | 5 mL | COCCOCCOC | C6H14O3
reactant | diglyme | 15 mL | COCCOCCOC | C6H14O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4S)-1-(tert-Butyloxycarbonyl)-4-(Hydroxymethyl)-L-Proline tert-Butyl Ester | C(C)(C)(C)OC([C@H]1N(C[C@H](C1)CO)C(=O)OC(C)(C)C)=O | C15H27NO5
